US07173025B1
Using an analogous procedure to that described in Example 4, 4-[1-(4-pyridyl)piperidin-4-yloxy]aniline was reacted with 4-toluenesulphonyl chloride to give N-{4-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}-4-toluenesulphonamide, hydrochloride salt, in 54% yield, m.p. 270-272° C.;

reactant | 4-[1-(4-pyridyl)piperidin-4-yloxy]aniline | N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(N)C=C1 | C16H19N3O
reactant | 4-toluenesulphonyl chloride | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | N-{4-[1-(4-pyridyl)piperidin-4-yloxy]phenyl}-4-toluenesulphonamide, hydrochloride salt | 54% yield | Cl.N1=CC=C(C=C1)N1CCC(CC1)OC1=CC=C(C=C1)NS(=O)(=O)C1=CC=C(C=C1)C | InChI=1S/C23H25N3O3S.ClH/c1-18-2-8-23(9-3-18)30(27,28)25-19-4-6-21(7-5-19)29-22-12-16-26(17-13-22)20-10-14-24-15-11-20;/h2-11,14-15,22,25H,12-13,16-17H2,1H3;1H
